US05017573
Preparation of N-[1-(3-methylbenzyl)-4-methyl-hexahydro-1H-1,4-diazepin-6-yl]-1-ethyl-1H-indazole-3-carboxamide:
A mixture of N-(1-methylhexahydro-1H-1,4-diazepin-6-yl)-1-ethyl-1H-indazole-3-carboxamide (1.8 g), potassium carbonate (4.1 g), sodium iodide (0.9 g), 3-methylbenzyl chloride (0.85 g) and methyl ethyl ketone (100 ml) is refluxed with stirring for 6 hours. After cooling, the reaction mixture is filtered, and the filtrate is concentrated under reduced pressure. The residue is chromatographed on silica gel with elution of chloroformmethanol (20:1). Fractions containing the title compound are pooled and evaporated under reduced pressure to give the title compound (1.9 g) as an oil. The free base thus obtained is converted to the fumarate of the title compound in a usual manner, m.p. 135-137° C. (recrystallized from ethanol-diethyl ether).

reactant | N-(1-methylhexahydro-1H-1,4-diazepin-6-yl)-1-ethyl-1H-indazole-3-carboxamide | 1.8 g | CN1CCNCC(C1)NC(=O)C1=NN(C2=CC=CC=C12)CC | C16H23N5O
reactant | potassium carbonate | 4.1 g | C([O-])([O-])=O.[K+].[K+]
reactant | sodium iodide | 0.9 g | [I-].[Na+]
reactant | 3-methylbenzyl chloride | 0.85 g | CC=1C=C(CCl)C=CC1 | C8H9Cl
solvent | methyl ethyl ketone | 100 ml | C(C)C(=O)C | C4H8O
product | N-[1-(3-methylbenzyl)-4-methyl-hexahydro-1H-1,4-diazepin-6-yl]-1-ethyl-1H-indazole-3-carboxamide | 1.9 g | CC=1C=C(CN2CCN(CC(C2)NC(=O)C2=NN(C3=CC=CC=C23)CC)C)C=CC1 | C24H31N5O
